US07135047B2
1.1.2 N-2-(morpholin-4-yl)ethyl-m-phenylenediamine
20 g N-2-(morpholin4-yl)ethyl-3-nitroaniline was dissolved in 270 ml ethanol and 30 ml water, and 0.3 Pd/C (5%) was added. After purging with nitrogen, hydrogenation was performed for 12 h at 50° C. under 50 bar of hydrogen pressure. After cooling, nitrogen purging was repeated, the catalyst was filtered off, and the filtrate was reduced on a rotary evaporator. 13.2 g of black oil was obtained; this was distilled twice in a ball tube (180–206° C., 0.06–0.08 mbar). The product obtained was a viscous orange oil (middle fraction).

reactant | N-2-(morpholin4-yl)ethyl-3-nitroaniline | 20 g | N1(CCOCC1)CCNC1=CC(=CC=C1)[N+](=O)[O-] | C12H17N3O3
solvent | ethanol | 270 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
catalyst | Pd/C | [Pd] | Pd
product | N-2-(morpholin-4-yl)ethyl-m-phenylenediamine | 13.2 g | N1(CCOCC1)CCNC1=CC(=CC=C1)N | C12H19N3O
